US04666453
Preparation of 2-chloro-β-(β'-hydroxyethoxy)ethylamino-4-nitro-N-ethylaniline
0.01 mole (2.35 g) of 2,5-dichloro-4-nitro-N-ethylaniline is heated in 10 ml of β-(β'-hydroxyethoxy)ethylamine for 30 minutes on a steam bath.

reactant | 2,5-dichloro-4-nitro-N-ethylaniline | 0.01 mole, 2.35 g | ClC1=C(NCC)C=C(C(=C1)[N+](=O)[O-])Cl | C8H8Cl2N2O2
reactant | β-(β'-hydroxyethoxy)ethylamine | 10 ml | OCCOCCN | C4H11NO2
product | 2-chloro-β-(β'-hydroxyethoxy)ethylamino-4-nitro-N-ethylaniline | ClC1=C(N(CC)NCCOCCO)C=CC(=C1)[N+](=O)[O-] | C12H18ClN3O4
